US08283353B2
3′-fluoro-4′-{[4-(4-{1-[1-(1-hydroxyethyl)cyclobutyl]ethoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
3′-Fluoro-4′-[(4-{4-[1-(1-formylcyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (14 g) was dissolved in tetrahydrofuran (150 mL), methylmagnesium bromide (35 mL, 1.0 M tetrahydrofuran solution) was added dropwise at 0° C., and the mixture was stirred at room temperature for 30 min. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (13 g, 90%).

reactant | 3′-Fluoro-4′-[(4-{4-[1-(1-formylcyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 14 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)C2CCC(CC2)OC(C)C2(CCC2)C=O)=O)C=2C(=CC=CC2)C#N | C35H38FN5O3
reactant | methylmagnesium bromide | 1.0 M, 35 mL | C[Mg]Br
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3′-fluoro-4′-{[4-(4-{1-[1-(1-hydroxyethyl)cyclobutyl]ethoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 13 g, 90% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)C2CCC(CC2)OC(C)C2(CCC2)C(C)O)=O)C=2C(=CC=CC2)C#N | C36H42FN5O3
